US08313772B2
A. {2-[2-(2-Hydroxy-ethoxy)-ethoxy]-ethoxy}-acetic acid benzyl ester
2-[2-(2-Hydroxy-ethoxy)-ethoxy]-ethanol (62.2 g, 414 mmol) was dissolved under argon in 875 mL of abs. DMF and cooled to 0° C. NaH (12.1 g, 277 mmol, 55% in mineral oil) was carefully added, the ice bath removed, and stirring continued for 1 h at 80° C. The reaction mixture was cooled to ambient temperature and treated with bromoacetic acid (18.98 g, 137 mmol) which was added via dropping funnel as a DMF-solution (20 ml). After an additional 30 min. at 75° C., bromomethyl-benzene (23.36 g, 137 mmol) was added neat and esterification allowed to proceed for 30 min. Cooling, careful pouring onto crashed ice, extraction with ethyl acetate, washing with water, drying over Na2SO4, and evaporation of all solvents followed by flash chromatography (SiO2, ethyl acetate/heptane=8/2) yielded 6.41 g of the title compound as a yellow oil. MS (ISP): 299.2 [M+H]+.

reactant | 2-[2-(2-Hydroxy-ethoxy)-ethoxy]-ethanol | 414 mmol, 62.2 g | OCCOCCOCCO | C6H14O4
reactant | NaH | 277 mmol, 12.1 g | [H-].[Na+]
reactant | bromoacetic acid | 137 mmol, 18.98 g | BrCC(=O)O | C2H3BrO2
reactant | bromomethyl-benzene | 137 mmol, 23.36 g | BrCC1=CC=CC=C1 | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | {2-[2-(2-Hydroxy-ethoxy)-ethoxy]-ethoxy}-acetic acid benzyl ester | 6.41 g | C(C1=CC=CC=C1)OC(COCCOCCOCCO)=O | C15H22O6
